US05194628
Preparation of 2,2-difluoro-1,3-benzodioxol-4-yl-lithium
94.0 g (272 mmol) of n-butyllithium (18.5% in toluene) are added dropwise under a nitrogen atmosphere at from -15° to -10° C. to 29.5 g (254 mmol) of N,N,N',N'-tetramethylethylenediamine and 40.0 g (253 mmol) of 2,2-difluoro-1,3-benzodioxole in 35 ml of toluene, n-butane being formed in addition to the title compound.

reactant | n-butyllithium | 272 mmol, 94.0 g | C(CCC)[Li]
reactant | N,N,N',N'-tetramethylethylenediamine | 254 mmol, 29.5 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,2-difluoro-1,3-benzodioxole | 253 mmol, 40.0 g | FC1(OC2=C(O1)C=CC=C2)F | C7H4F2O2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-butane | CCCC | C4H10
product | 2,2-difluoro-1,3-benzodioxol-4-yl-lithium | FC1(OC2=C(O1)C=CC=C2[Li])F | InChI=1S/C7H3F2O2.Li/c8-7(9)10-5-3-1-2-4-6(5)11-7;/h1-3H;
